US08557983B2
4-((1,4-dioxan-2-yl)methoxy)-3-nitrobenzenesulfonamide
(1,4-Dioxan-2-yl)methanol (380 mg) in tetrahydrofuran (30 mL) was treated with sodium hydride (60%, 245 mg) at room temperature for 30 minutes. The reaction mixture was cooled in an ice bath and 4-fluoro-3-nitrobenzenesulfonamide (675 mg) was added. The resulting mixture was stirred at room temperature for 2 hours and another portion of sodium hydride (60%, 245 mg) was added. The reaction mixture was stirred overnight and quenched with ice water (3 mL). The cloudy mixture was filtered and the filtrate was concentrated. The residue was triturated with methanol to give the title compound.

reactant | (1,4-Dioxan-2-yl)methanol | 380 mg | O1C(COCC1)CO | C5H10O3
reactant | sodium hydride | 245 mg | [H-].[Na+]
reactant | 4-fluoro-3-nitrobenzenesulfonamide | 675 mg | FC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H5FN2O4S
reactant | sodium hydride | 245 mg | [H-].[Na+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | 4-((1,4-dioxan-2-yl)methoxy)-3-nitrobenzenesulfonamide | O1C(COCC1)COC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C11H14N2O7S
